US08309721B2
0.34 g of 4-bromo-2-fluorobenzonitrile, 1.4 g of caesium carbonate, 0.08 g of (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphane) and 25 mg of palladium acetate are successively added, under argon, to a solution of 0.31 g of [5-(9H-carbazol-4-yl)pyridin-2-yl]methanol in 15 ml of dioxane. The reaction mixture is refluxed for 4 hours, cooled to ambient temperature, filtered through celite and concentrated under reduced pressure. The residue is purified by silica gel chromatography, elution being carried out with a mixture of cyclohexane and ethyl acetate (85/15 by volume), so as to give 70 mg of 2-fluoro-4-{4-[6-(hydroxymethyl)pyridin-3-yl]-9H-carbazol-9-yl}benzonitrile in the form of a yellow solid, the characteristics of which are the following:

reactant | 4-bromo-2-fluorobenzonitrile | 0.34 g | BrC1=CC(=C(C#N)C=C1)F | C7H3BrFN
reactant | caesium carbonate | 1.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphane) | 0.08 g | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | [5-(9H-carbazol-4-yl)pyridin-2-yl]methanol | 0.31 g | C1=CC=C(C=2C3=CC=CC=C3NC12)C=1C=CC(=NC1)CO | C18H14N2O
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 25 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-fluoro-4-{4-[6-(hydroxymethyl)pyridin-3-yl]-9H-carbazol-9-yl}benzonitrile | 70 mg | FC1=C(C#N)C=CC(=C1)N1C2=CC=CC=C2C=2C(=CC=CC12)C=1C=NC(=CC1)CO | C25H16FN3O
